US05709867
(a) Preparation of methyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetate
15 g (0.06 mol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid, 150 ml of methanol and 1.6 ml of concentrated sulfuric acid were introduced into a round-bottomed flask. The mixture was heated at reflux for 4 hours, the reaction medium evaporated, taken up in water, and extracted with ethyl acetate. The organic phase was decanted off and dried over magnesium sulfate. 15.9 g (99%) of the expected ester of melting point 83°-85° C. were recovered.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid | 0.06 mol, 15 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)O)C | C16H22O2
reactant | sulfuric acid | 1.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 150 ml | CO | CH4O
product | methyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetate | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)OC)C | C17H24O2
